US07816557B2
Racemic 4-(1-Hydroxy-propyl)-benzoic acid methyl ester
To a solution of 4-formyl-benzoic acid methyl ester (3.0 g, 18.3 mmol) in THF (10 mL) at 0° C. is added ethylmagnesium bromide (2M, 10 mL). After stirring at room temperature for 2 hours, it is quenched with saturated ammonium chloride, extracted with EtOAc. The organic is concentrated to give the titled compound as colorless oil: 2.2 g (62%).

reactant | 4-formyl-benzoic acid methyl ester | 18.3 mmol, 3.0 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | ethylmagnesium bromide | 2M, 10 mL | C(C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Racemic 4-(1-Hydroxy-propyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CC)O)=O | C11H14O3
